Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
crack cocaine overdose 
 
Major Surgical or Invasive Procedure:
left IJ placement
 
History of Present Illness:
___ is a ___ yo M w/pmh of crack cocaine/ etoh abuse, 
chronic back pain, knee here with cocaine overdose/ etoh. He was 
brought in by EMS, found under a car smoking crack/cocaine. A 
scuffle ensued. On presentation to the ED, His initial VS were 
105.8, 112/98, 24, 94RA. He was combative and given large 
amounts of ativan and placed in 4 point restraints. His initial 
fever of 105.8 improved to 97.8 w/ tylenol. ___. He reportedly 
he had several melanotic stools in the ED. Per report, he 
received 7L NS IVF in the ED. Pt. was given vanc, ceftrioxone, 
ativan 2mg x 3, dextrose 1amp, tylenol.  
His labs notable for an initial lactate of 13.7 (now 1.3), Na of 
154, glucose of 37, ___ 194. crt 2.7. CK 3246. +urine cocaine, 
+serum etoh.  

 
Past Medical History:
chronic back pain  
chronic knee pain  
etoh and crack/cocaine abuse  

 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
VS: 96.8, 102/73, 89, 100RA  
GEN: laying in bed with arm restraints, slightly agitated but 
answering questions (not appropriately)  
HEENT: dry MM, other exam deferred  
CV: tachycardic, regular no murmurs  
PULM: CTA anteriorly  
ABD: soft, NT, ND, + BS, no HSM  
EXT: warm, dry, +2 distal pulses ___  
NEURO: alert, oriented to name.  

 
Pertinent Results:
___ 09:20PM BLOOD ALT-82* AST-114* CK(CPK)-3246* AlkPhos-48 
TotBili-0.4
___ 02:12AM BLOOD ALT-205* AST-389* ___
___ 05:25AM BLOOD ALT-244* AST-513* ___
___ 02:34PM BLOOD ___
___ 06:32PM BLOOD ___
___ 02:11AM BLOOD ALT-1225* ___ ___ 
AlkPhos-51 TotBili-0.6
___ 01:02PM BLOOD ___
___ 07:33AM BLOOD ___ AST-1788* ___ 
AlkPhos-54 TotBili-1.6*
___ 08:02AM BLOOD ALT-1354* AST-851* ___ 
AlkPhos-63 TotBili-1.2
___ 07:30AM BLOOD ALT-925* AST-434* CK(CPK)-8427* 
AlkPhos-59 TotBili-0.9
___ 07:00AM BLOOD ALT-680* AST-218* CK(CPK)-3066* 
AlkPhos-56 TotBili-0.7
.
.
___ 06:50PM BLOOD UreaN-16 Creat-2.7*
___ 02:34PM BLOOD Glucose-114* UreaN-20 Creat-2.2* Na-146* 
K-4.0 Cl-116* HCO3-21* AnGap-13
___ 01:02PM BLOOD Glucose-120* UreaN-9 Creat-1.6* Na-143 
K-3.5 Cl-109* HCO3-30 AnGap-8
___ 07:00AM BLOOD Glucose-95 UreaN-11 Creat-1.2 Na-141 
K-3.9 Cl-104 HCO3-29 AnGap-12
.
.

___ 06:50PM BLOOD WBC-7.5 RBC-5.88 Hgb-16.2 Hct-49.0 MCV-83 
MCH-27.6 MCHC-33.1 RDW-13.0 Plt ___
___ 02:12AM BLOOD WBC-16.9*# RBC-4.82 Hgb-13.5* Hct-39.6* 
MCV-82 MCH-28.0 MCHC-34.0 RDW-13.7 Plt ___
___ 06:32PM BLOOD WBC-13.8* RBC-4.41* Hgb-12.2* Hct-35.8* 
MCV-81* MCH-27.8 MCHC-34.2 RDW-14.0 Plt ___
___ 08:02AM BLOOD WBC-5.8 RBC-4.53* Hgb-12.9* Hct-37.2* 
MCV-82 MCH-28.4 MCHC-34.7 RDW-13.5 Plt ___
___ 07:00AM BLOOD WBC-7.4 RBC-4.93 Hgb-13.5* Hct-40.0 
MCV-81* MCH-27.5 MCHC-33.8 RDW-13.6 Plt ___/P: ___ yo M here with crack/cocaine OD, elevated CKs, ARF, 
melena.  

In the MICU, he was treated with tylenol for his high 
temperature and it defervesced.  He was given aggressive IV 
fluid hydration for his rhadomyolysis and CKs peaked and started 
to decrease the day before transfer to the floor.  He was 
monitored on tele and stayed in a normal sinus rhythm, although 
ekg changes suggested some evidence of heart disease from 
cocaine use.  Changes were nonspecific. (see below for EKG 
interpretations).  Psych was consulted and will continue to 
follow.  Pt continues to be paranoid and agitated.
.
Upon presentation to the floor, he was feeling ok.  Complains of 
diffuse pain in all of his body.  Most specifically, his R 
shoulder hurts and has limited ROM.  Does not complain of 
CP/SOB/palpitation.  Seems to still be paranoid and talking 
about the EMS who tried to kill him on the way to the hospital.  
Currently not having melena.  He received IVFs and his CK and 
LFTs trended downward.  He was seen and cleared by psych, and 
discharged in stable condition to home.  See below for specific 
problems and treatment.
.
# Cocaine overdose - Patient has known substance abuse hx. Pt. 
admits to "getting high" using crack cocaine.  During his 
hospitalization, he was continued on ativan PRN for agitation, 
which he did not require much.  His ECG showed no ischemic 
changes.  Psychiatry followed patient, who was also found on 
previous medical records to have been diagnosed with 
schizoaffective disorder.  Refused help for substance abuse 
problems. 
.  
# Melana- Cocaine use is assoc. w/ perforated ulcers.  Could be 
ischemic colitis, as well.  Pt. had several melanotic stools in 
ED. He was given 3units pRBCs.  During the rest of his 
hospitalization, he no longer had melanotic stools, and his HCT 
remained stable.  He was also given ppi IV BID, and then 
transitioned to oral protonix.  Would recommend colonoscopy in 
the future as an outpatient, but was not actively bleeding or 
having GI complaints on discharge. 
.  
# ARF: no baseline, crt initially 2.7, improved with hydration.  
This was likely in the setting of rhabdo.  Did not know 
baseline.  Discharged with Cr of 1.2.     
.  
# Rhabdomyolysis: likely ___ to crack-cocaine use. Rapidly 
increasing CKs (3000's trending to ___. Given 7L NS in the 
ED. Electrolytes were stable.  Was treated aggressively with 
hydration with D5 w/ bicarb (3amps).  IVFs were continued until 
the day before discharge.  Patient had good urine output 
throughout hospitalization. 
.  
# Hypernatremia: likely ___ to dehydration. Improved with D5W 
and had normal sodium by the time he was transferred to the 
floor.    
.  
# Agitation: Patient has been agitated ___ to crack-cocaine use. 
He also has a significant psych hx (?schizophrenia). He at times 
threatened to leave and to pull out his IV lines.  He was kept 
on psychiatry hold.  The day of discharge he was seen by 
psychiatry and evaluated.  It was determined he was safe to 
leave without further psych treatment.  He did not like having 
to been seen by a psychiatrist and often got agitated and angry 
during these visits. 
.  
# Pt is a full code.

He was discharged in stable condition.  He threatened to never 
return for his follow up visits, but by the time he left was 
calm again.  He left his aunt's phone number as a contact.  

 
Medications on Admission:
none
 
Discharge Medications:
1. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
2. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.  Cocaine Overdose
2.  Rhabdomyolysis
3.  Acute Renal Failure
4.  Transaminitis
5.  Rotator Cuff Tear

 
Discharge Condition:
vital signs stable, afebrile, able to ambulate on own

 
Discharge Instructions:
You were admitted to the hospital with a cocaine overdose.  It 
very severely affected your muscles, kidney and liver.  Every 
day we checked blood tests to make sure that these organs were 
recovering.  Now that you are leaving the hospital, they are 
close to normal.  It is important you follow up with your 
primary care doctor to make sure they have gone all the way back 
to normal.

We are sending you home with 1 new prescription that protects 
your stomach.  You had bleeding from your GI tract when you 
initally were admitted to the hospital.  We also are sending you 
home with 2 new vitamin prescriptions.

In addition to medical treatment, you were seen by the 
hospital's psychiatrist because you were very agitated.  If you 
would like to see a couselor about substance abuse, it can be 
set up for you as an outpatient.  

Please return to the hospital for any chest pain, shortness of 
breath, abdominal pain, blood in stool or urine or any other 
concerns.  Call ___ if it is an emergency.

We can reach you at ___, your aunt's house.  Please 
call if your contact information changes.

 
Followup Instructions:
___